US04957928
15.73 g (82.5 mmol) of p-toluenesulphonyl chloride are added at room temperature while stirring to a solution of 13.36 g (75 mmol) of 2-(2-hydroxyethyl)chroman in 90 ml of absolute pyridine, the slightly exothermic reaction being maintained at room temperature by means of an ice bath. After stirring for a further 3 hours at room temperature, the reaction mixture is poured onto ice-water. The crystals formed are filtered off with suction, washed with water and dried in vacuo. There are obtained 8.68 g (34.7%) of 2-[2-(p-toluenesulphonyloxy)ethyl]chroman which melts at 57°-59°.

reactant | p-toluenesulphonyl chloride | 82.5 mmol, 15.73 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2-(2-hydroxyethyl)chroman | 75 mmol, 13.36 g | OCCC1OC2=CC=CC=C2CC1 | C11H14O2
solvent | pyridine | 90 ml | N1=CC=CC=C1 | C5H5N
product | 2-[2-(p-toluenesulphonyloxy)ethyl]chroman | 8.68 g, 34.7% | C1(=CC=C(C=C1)S(=O)(=O)OCCC1OC2=CC=CC=C2CC1)C | C18H20O4S
